US03957833
By utilizing the procedure of Example 1 by reacting syringic acid propargyl ester with geranyl bromide, there is obtained 4-[(3,7-dimethyl-2,6-octadienyl)oxy]-3,5-dimethoxy benzoic acid propargyl ester; nD21 = 1.5320

reactant | syringic acid propargyl ester | C(C#C)OC(C1=CC(OC)=C(O)C(OC)=C1)=O | C12H12O5
reactant | geranyl bromide | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
product | 4-[(3,7-dimethyl-2,6-octadienyl)oxy]-3,5-dimethoxy benzoic acid propargyl ester | C(C#C)OC(C1=CC(=C(C(=C1)OC)OCC=C(CCC=C(C)C)C)OC)=O | C22H28O5
